US07572790B2
Ethyl 4-bromo-3-hydroxybenzoate (200 mg) was dissolved in DMF (10 ml) and 4-iodo-butyl acetate (195 μl) and sodium hydride (56 mg, 60% dispersion in mineral oil) were added and the reaction stirred at 80° C. under nitrogen for 3 hours. The reaction was quenched with water (5 ml) and the solvents evaporated under vacuum. The residue was partitioned between ethyl acetate/chloroform (1:1) and water. The organic phase was dried using a hydrophobic filter and the solvent evaporated in vacuo to give ethyl 3-{[4-(acetyloxy)butyl]oxy}-4-bromobenzoate as a yellow gel (318 mg).

reactant | Ethyl 4-bromo-3-hydroxybenzoate | 200 mg | BrC1=C(C=C(C(=O)OCC)C=C1)O | C9H9BrO3
reactant | 4-iodo-butyl acetate | 195 μl | C(C)(=O)OCCCCI | C6H11IO2
reactant | sodium hydride | 56 mg | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 3-{[4-(acetyloxy)butyl]oxy}-4-bromobenzoate | 318 mg | C(C)(=O)OCCCCOC=1C=C(C(=O)OCC)C=CC1Br | C15H19BrO5
